US05198449
N,α-bis(4-Fluorophenyl)-1-(3-phenoxypropyl)-3-pyrrolidinemethanamine
The title compound is prepared from N,α-bis(4-fluorophenyl)-3-pyrrolidinemethanamine hydrochloride and 3-phenoxypropylbromide according to the procedure of Example 8.

reactant | N,α-bis(4-fluorophenyl)-3-pyrrolidinemethanamine hydrochloride | Cl.FC1=CC=C(C=C1)NC(C1CNCC1)C1=CC=C(C=C1)F
reactant | 3-phenoxypropylbromide | O(C1=CC=CC=C1)CCCBr | C9H11BrO
product | N,α-bis(4-Fluorophenyl)-1-(3-phenoxypropyl)-3-pyrrolidinemethanamine | FC1=CC=C(C=C1)NC(C1CN(CC1)CCCOC1=CC=CC=C1)C1=CC=C(C=C1)F | C26H28F2N2O
